### PR TITLE
[Merged by Bors] - feat(LinearAlgebra): fill two proof_wanted declarations

### PR DESCRIPTION
**Pull request by adamtopaz**
... and generalize `AlgHom.bijective` and move to earlier file.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Determinant.lean [hunk 1]
```diff
@@ -460,11 +461,23 @@ end LinearEquiv
...
+  · haveI := hm
+    let φ : Matrix m m K →ₐ[K] Matrix m m K := AlgHomClass.toAlgHom f
+    have hφinj : Function.Injective φ :=
+      RingHom.injective (φ : Matrix m m K →+* Matrix m m K)
+    have hφsurj : Function.Surjective φ :=
+      (LinearMap.injective_iff_surjective
+        (f := (φ : Matrix m m K →ₗ[K] Matrix m m K))).mp hφinj
+    simpa [φ] using Matrix.det_map (AlgEquiv.ofBijective φ ⟨hφinj, hφsurj⟩) x
+  · haveI : IsEmpty m := not_nonempty_iff.mp hm
+    simp
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Determinant.lean]: If you generalize `AlgHom.bijective` to:
```lean4
theorem AlgHom.bijective {K S : Type*} [Field K] [Ring S] [IsSimpleRing S]
    [Algebra K S] [FiniteDimensional K S] (f : S →ₐ[K] S) :
    Function.Bijective f :=
  ⟨f.toRingHom.injective, f.toLinearMap.injective_iff_surjective.mp f.toRingHom.injective⟩
```

then this can be
```suggestion
  by_cases! Nonempty m
  · simpa using det_map (AlgEquiv.ofBijective _ (AlgHomClass.toAlgHom f).bijective) x
  · simp
```

File: Mathlib/LinearAlgebra/Trace.lean [hunk 2]
```diff
@@ -325,11 +326,23 @@ theorem trace_conj' (f : M →ₗ[R] M) (e : M ≃ₗ[R] N) : trace R N (e.conj
...
+  · haveI := hm
+    let φ : Matrix m m K →ₐ[K] Matrix m m K := AlgHomClass.toAlgHom f
+    have hφinj : Function.Injective φ :=
+      RingHom.injective (φ : Matrix m m K →+* Matrix m m K)
+    have hφsurj : Function.Surjective φ :=
+      (LinearMap.injective_iff_surjective
+        (f := (φ : Matrix m m K →ₗ[K] Matrix m m K))).mp hφinj
+    simpa [φ] using Matrix.trace_map (AlgEquiv.ofBijective φ ⟨hφinj, hφsurj⟩) x
+  · haveI : IsEmpty m := not_nonempty_iff.mp hm
+    simp
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Trace.lean]: After you generalize `AlgHom.bijective`, you can similarly do
```suggestion
  by_cases! Nonempty m
  · simpa using x.trace_map (AlgEquiv.ofBijective _ (AlgHomClass.toAlgHom f).bijective)
  · simp
```

File: Mathlib/Data/EReal/Operations.lean
Comment (themathqueen) [inline Mathlib/Data/EReal/Operations.lean:1]: Also, move this to another PR? Let's just keep the matrix results here

Comment (themathqueen) [reply Mathlib/Data/EReal/Operations.lean:1]: @adamtopaz, I got impatient so I pushed the golfs, hope you don't mind 😅. Please move this to a separate PR though, I'll remove this from here so we can move this PR forward.

File: Mathlib/LinearAlgebra/Determinant.lean [hunk 3]
```diff
@@ -474,11 +475,12 @@ end LinearEquiv
...
 
--- TODO: show `(f x).det = x.det` for when `f : Matrix m m K →ₐ[K] Matrix m m K`
--- (using Skolem-Noether)
-proof_wanted Matrix.det_map' {K m F : Type*} [Field K] [Fintype m] [DecidableEq m]
+@[simp] theorem Matrix.det_map' {K m F : Type*} [Field K] [Fintype m] [DecidableEq m]
     [FunLike F (Matrix m m K) (Matrix m m K)] [AlgHomClass F K _ _] (f : F) (x : Matrix m m K) :
-    (f x).det = x.det
+    (f x).det = x.det := by
+  by_cases! Nonempty m
+  · simpa using det_map (AlgEquiv.ofBijective _ (AlgHomClass.toAlgHom f).bijective) x
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Determinant.lean]:
```suggestion
  · exact det_map (AlgEquiv.ofBijective _ (AlgHomClass.toAlgHom f).bijective) x
```

File: Mathlib/LinearAlgebra/Trace.lean [hunk 4]
```diff
@@ -325,11 +326,12 @@ theorem trace_conj' (f : M →ₗ[R] M) (e : M ≃ₗ[R] N) : trace R N (e.conj
...
 
--- TODO: show `(f x).trace = x.trace` for when `f : Matrix m m K →ₐ[K] Matrix m m K`
--- (using Skolem-Noether)
-proof_wanted _root_.Matrix.trace_map' {K m F : Type*} [Field K] [Fintype m] [DecidableEq m]
+@[simp] theorem _root_.Matrix.trace_map' {K m F : Type*} [Field K] [Fintype m] [DecidableEq m]
     [FunLike F (Matrix m m K) (Matrix m m K)] [AlgHomClass F K _ _] (f : F) (x : Matrix m m K) :
-    (f x).trace = x.trace
+    (f x).trace = x.trace := by
+  by_cases! Nonempty m
+  · simpa using Matrix.trace_map (AlgEquiv.ofBijective _ (AlgHomClass.toAlgHom f).bijective) x
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Trace.lean]:
```suggestion
  · exact Matrix.trace_map (AlgEquiv.ofBijective _ (AlgHomClass.toAlgHom f).bijective) x
```

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
